*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G401  
*  
* Parameters derived from information available in data sheet.  
*  
*                 e-cathode-1 
*                 |  d-cathode-1 
*                 |  |  c-cathode-1 
*                 |  |  |  dp-cathode-1 
*                 |  |  |  |  e-cathode-2 
*                 |  |  |  |  |  d-cathode-2 
*                 |  |  |  |  |  |  g-cathode-2 
*                 |  |  |  |  |  |  |  c-cathode-2 
*                 |  |  |  |  |  |  |  |  cp-cathode-2 
*                 |  |  |  |  |  |  |  |  |  b-cathode-2 
*                 |  |  |  |  |  |  |  |  |  |  a-cathode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  f-cathode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-anode-2 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-anode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  b-cathode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  a-cathode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  g-cathode-1 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  f-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G401 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14 16 dHDSP_G401
DB1  14 15 dHDSP_G401
DC1  14  3 dHDSP_G401
DD1  14  2 dHDSP_G401
DE1  14  1 dHDSP_G401
DF1  14 18 dHDSP_G401
DG1  14 17 dHDSP_G401
DDP1 14  4 dHDSP_G401

DA2  13 11 dHDSP_G401
DB2  13 10 dHDSP_G401
DC2  13  8 dHDSP_G401
DD2  13  6 dHDSP_G401
DE2  13  5 dHDSP_G401
DF2  13 12 dHDSP_G401
DG2  13  7 dHDSP_G401
DDP2 13  9 dHDSP_G401

.MODEL dHDSP_G401 D
+ (  
+     IS = 3.04174763E-24 
+      N = 1.23122391 
+     RS = 24.19303791 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_G401